US04221725
(B) 3-[2-(4-Hydroxyphenyl)ethyl]glutaric acid
To a suspension of 57% sodium hydride-paraffin (2.2 g) in dry dimethylformamide (70 ml) in an atmosphere of nitrogen is slowly added ethanethiol (4.0 ml). The mixture is stirred at room temperature until a clear solution results. To this solution is added a solution of 3-[2-(4-methoxyphenyl)ethyl]-glutaric acid (1.2 g) in dry dimethylformamide (10 ml) and the mixture is heated with stirring in a bath at 165° C. for 6.0 hours. The mixture is then evaporated to dryness in vacuo and the resulting residue is dissolved in water (50 ml), extracted with ether (two 50 ml portions) and the ether extract is discarded. The aqueous solution is acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The ethyl acetate solution is washed with brine, dried with anhydrous magnesium sulfate, and evaporated to a residue. Crystallization of this from chloroform-hexane affords 1.0 g of the title compound, melting point 142°-144° C.

reactant | ethanethiol | 4.0 ml | C(C)S | C2H6S
reactant | 3-[2-(4-methoxyphenyl)ethyl]-glutaric acid | 1.2 g | COC1=CC=C(C=C1)CCC(CC(=O)O)CC(=O)O | C14H18O5
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-[2-(4-Hydroxyphenyl)ethyl]glutaric acid | 1.0 g | OC1=CC=C(C=C1)CCC(CC(=O)O)CC(=O)O | C13H16O5
